US08871796B2
A stirred solution of 2-{3-[3-(3-aminooxetan-3-yl)phenyl]-5-(4-trifluoromethylphenoxy)-1H-pyrazol-1-yl}-N,N-dimethylacetamide (46 mg, 0.10 mmol) in 1 mL of CH2Cl2 was cooled in an ice bath. Triethylamine (0.021 mL, 0.15 mmol) was added, followed by trifluoroethylsulfonyl chloride (0.013 mL, 0.12 mmol), and the mixture was stirred for 30 min. Water was added and the mixture was extracted with CH2Cl2. The combined organic phases were washed with water and brine, then dried over Na2SO4, filtered, and the solvent was removed under reduced pressure. The residue was purified on a C18 reverse phase column using a gradient elution of 20-70% CH3CN:H2O with 0.1% TFA over 20 min at 20 mL/min. Fractions containing pure product were combined and the solvents were removed under reduced pressure to give 2-[5-(4-trifluoromethylphenoxy)-3-(3-{3-[(2,2,2-trifluoroethylsulfonyl)amino]oxetan-3-yl}phenyl)-1H-pyrazol-1-yl]-N,N-dimethylacetamide as a foam. Calcd (M+1)+: 607.1444. Found: 607.1468. 1H NMR (400 MHz, CDCl3) δ 7.75 (m, 2H), 7.64 (d, J=7, 2H), 7.44 (t, J=7, 1H), 7.35 (m, 2H), 7.28 (s, 1H), 6.38 (s, 1H), 6.04 (s, 1H), 5.04 (d, J=7, 2H), 4.98 (d, J=7, 2H), 4.94 (s, 2H), 3.09 (s, 3H), 2.97 (overlapping s and q, 5H).

reactant | 2-{3-[3-(3-aminooxetan-3-yl)phenyl]-5-(4-trifluoromethylphenoxy)-1H-pyrazol-1-yl}-N,N-dimethylacetamide | 0.10 mmol, 46 mg | NC1(COC1)C=1C=C(C=CC1)C1=NN(C(=C1)OC1=CC=C(C=C1)C(F)(F)F)CC(=O)N(C)C | C23H23F3N4O3
reactant | Triethylamine | 0.15 mmol, 0.021 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroethylsulfonyl chloride | 0.12 mmol, 0.013 mL | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
reactant | Water | O | H2O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-[5-(4-trifluoromethylphenoxy)-3-(3-{3-[(2,2,2-trifluoroethylsulfonyl)amino]oxetan-3-yl}phenyl)-1H-pyrazol-1-yl]-N,N-dimethylacetamide | FC(C1=CC=C(OC2=CC(=NN2CC(=O)N(C)C)C2=CC(=CC=C2)C2(COC2)NS(=O)(=O)CC(F)(F)F)C=C1)(F)F | C25H24F6N4O5S
